US08486963B2
Step 2: 5-Chloro-7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide
To a solution of 5-chloro-7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide (57 mg, 0.1 mmol) in methanol (1 mL) was added a solution of hydrochloric acid in dioxane (1 mL, 4M, 4 mmol). The reaction was stirred at room temperature for 1 hour then diluted with ethyl acetate (5 mL), washed with saturated aqueous sodium bicarbonate solution (10 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-10% methanol in DCM) to yield a light brown solid. The solid was triturated with acetonitrile (3 mL) to yield the title compound as an off white solid (13 mg, 45%). 1H NMR (CH3 OH-d4): 8.74 (1H, d, J=1.57 Hz), 7.49 (1H, d, J=6.61 Hz), 7.42 (1H, dd, J=10.78, 1.91 Hz), 7.38 (1H, dd, J=6.61, 1.58 Hz), 7.21 (1H, ddd, J=8.48, 1.90, 1.11 Hz), 6.14 (1H, t, J=8.76 Hz), 3.89-3.80 (1H, m), 3.79-3.71 (2H, m), 3.56-3.42 (2H, m). LCMS (Method A): RT=7.70 min, M+H+=521.

reactant | 5-chloro-7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 0.1 mmol, 57 mg | CC1(OC[C@@H](O1)CONC(=O)C=1C(=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F)Cl)C | C20H19ClFIN4O4
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 4 mmol, 4M, 1 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide | O[C@@H](CONC(=O)C=1C(=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F)Cl)CO | C17H15ClFIN4O4
